US06867323B2
Preparation of Diisopropyl-(3-pentynyloxy)silane
To a cold (0° C.) solution of 3-pentynol (5.880g, 70.0 mmol, 1.0 equiv), 4-dimethylaminopyridine (DMAP) (840 mg, 7.00 mmol, 0.10 equiv), and triethylamine (TEA) (9.80 ml, 71.0 mmol, 1.01 equiv) in 100 mL of dry hexane was added dropwise chlorodiisopropylsilane (11.0 g, 71.0 mmol, 1.01 equiv) over 20 minutes. The resulting white suspension was allowed to warm to room temperature and was stirred overnight. The reaction mixture was filtered through a short silica pad (10 g) and the solvent was then evaporated in vacuo to give a colorless liquid. Fractional distillation of this liquid afforded 11.2 g (81%) of A-7 as a colorless liquid. An analytical sample (0.48 g) was obtained by redistillation of a 0.50 g sample by Kugelrohr distillation.

reactant | 3-pentynol | 70.0 mmol, 5.880g, 1.0 equiv | C(CC#CC)O | C5H8O
reactant | triethylamine | 71.0 mmol, 9.80 ml, 1.01 equiv | C(C)N(CC)CC | C6H15N
reactant | chlorodiisopropylsilane | 71.0 mmol, 11.0 g, 1.01 equiv | Cl[SiH](C(C)C)C(C)C | C6H15ClSi
catalyst | 4-dimethylaminopyridine | 7.00 mmol, 840 mg, 0.10 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | hexane | 100 mL | CCCCCC | C6H14
product | Diisopropyl-(3-pentynyloxy)silane | C(C)(C)[SiH](OCCC#CC)C(C)C | C11H22OSi
